US09403801B2
Step 2) 1-acetyl-N-benzylcyclopentane carboxamide
To a solution of N-benzyl-3-oxobutanamide (100.00 g, 522.93 mmol), K2CO3 (216.50 g, 1568.79 mmol) in DMF (1 L) was added 1,4-dibromobutane (169.36 g, 784.4 mmol) dropwise at rt. After addition, the reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was added water (500 mL) and extracted with EtOAc (500 mL×3). The combined organic phases were washed with brine (500 mL×3), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/8) to give the product as a white solid (69.50 g, 54%).

reactant | N-benzyl-3-oxobutanamide | 522.93 mmol, 100.00 g | C(C1=CC=CC=C1)NC(CC(C)=O)=O | C11H13NO2
reactant | K2CO3 | 1568.79 mmol, 216.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 784.4 mmol, 169.36 g | BrCCCCBr | C4H8Br2
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | 1-acetyl-N-benzylcyclopentane carboxamide | 69.50 g, 54% | C(C)(=O)C1(CCCC1)C(=O)NCC1=CC=CC=C1 | C15H19NO2
